US04780480
7-(4-Methylthiobenzyl)benzofuran-5-ylacetyl Chloride
A solution of 7-(4-methylthiobenzyl)benzofuran-5-ylacetic acid (10 g), dichloromethane (100 ml), thionyl chloride (10.0 ml) and dimethylformamide (0.2 ml) was stirred at room temperature for 6 hours. The solvent was then evaporated to give a residue which contained the title compound.

reactant | 7-(4-methylthiobenzyl)benzofuran-5-ylacetic acid | 10 g | CSC1=CC=C(CC2=CC(=CC=3C=COC32)CC(=O)O)C=C1 | C18H16O3S
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | thionyl chloride | 10.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 7-(4-Methylthiobenzyl)benzofuran-5-ylacetyl Chloride | CSC1=CC=C(CC2=CC(=CC=3C=COC32)CC(=O)Cl)C=C1 | C18H15ClO2S
